US06656971B2
5-(2-pyridin-4-yl-vinyl)-isophthalic acid dimethylester.
A solution of 5-bromoisophthalic acid dimethylester (542 mg, 2 mmol) and 4-vinylpyridine (206 mg, 2 mmol), Pd(OAc)2 (8 mg), tri-o-tolylphosphine (30 mg) in 5 ml Et3N (5 ml) was stirred at 80° C. for overnight. The reaction mixture was purified by silica gel column eluted by 50% EtOAc in hexane to afford the product (65% yield). MS+=297. 1H NMR (CDCl3, 400 MHz) 8.64 (s, 1H), 8.61 (d, 2H), 8.38 (d, 2H), 7.40 (m, 2H), 7.35 (m, 1H), 7.21 (m, 1H), 4.02 (s, 6H);

reactant | 5-bromoisophthalic acid dimethylester | 2 mmol, 542 mg | COC(C1=CC(C(=O)OC)=CC(=C1)Br)=O | C10H9BrO4
reactant | 4-vinylpyridine | 2 mmol, 206 mg | C(=C)C1=CC=NC=C1 | C7H7N
reactant | tri-o-tolylphosphine | 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-pyridin-4-yl-vinyl)-isophthalic acid dimethylester | 65% yield | COC(C1=CC(C(=O)OC)=CC(=C1)C=CC1=CC=NC=C1)=O | C17H15NO4
